US08138340B2
3-Thiazol-2-yl-propan-1-ol
Pd on charcoal (0.5 g) was added to a sol. of 3-thiazol-2-yl-prop-2-yn-1-ol (2.31 g, 16.6 mmol) in EtOH (85 mL), and the mixture was subjected to an atmosphere of H2 overnight.

reactant | 3-thiazol-2-yl-prop-2-yn-1-ol | 16.6 mmol, 2.31 g | S1C(=NC=C1)C#CCO | C6H5NOS
solvent | EtOH | 85 mL | CCO | C2H6O
catalyst | Pd on charcoal | 0.5 g | [Pd] | Pd
product | 3-Thiazol-2-yl-propan-1-ol | S1C(=NC=C1)CCCO | C6H9NOS
